US06960586B2
Methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate (0.80 g) was dissolved in THF (8 ml) and 40% methylamine methanol solution (8 ml) was added. The reaction mixture was stirred at room temperature for 20 hrs. and the solvent was evaporated. The residue was suspended in ethyl acetate and filtrated to give 7-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one as a colorless solid (0.77 g). This solid was suspended in a mixed solution of THF and methanol (1:3, 20 ml) and pyridine hydrochloride (0.23 g) was added. The reaction mixture was stirred with heating at 60° C. for 6 hrs., and the solvent was evaporated. The residue was diluted with saturated aqueous sodium hydrogen carbonate and extracted twice with ethyl acetate-THF (1:1). The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from THF-methanol to give the title compound as colorless crystals (0.28 g).

reactant | Methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate | 0.80 g | BrCC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)OC | C39H35BrN2O3
reactant | methylamine methanol | 8 ml | CO.CN
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 7-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.77 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=C(C=3CN(C(C3C=C2)=O)C)C=C1 | C39H35N3O2
